US04537984
6.1 g of 4-hydroxybenzaldehyde, 12.3 g of (-)-butyl lactate-mesylate ([α]D25 =-49.1°), 4 g of sodium carbonate, 0.2 g of potassium iodide and 100 g of dimethyl formamide, were mixed, and the mixture was stirred at 100° C. for 5 hours and then cooled to room temperature. The reaction mixture was subjected to liquid separation with an addition of toluene and water. The organic layer was washed twice with water, and after distilling off toluene, subjected to distillation under reduced pressure, whereby 10.3 g of (+)-butyl 2-(4-formylphenoxy)propionate was obtained as a colorless transparent liquid. The boiling point was from 135° to 140° C./0.1 mmHg.

reactant | 4-hydroxybenzaldehyde | 6.1 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | (-)-butyl lactate mesylate | 12.3 g | C(C(O)C)(=O)OCCCC.S(C)(=O)(=O)[O-]
reactant | sodium carbonate | 4 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | potassium iodide | 0.2 g | [I-].[K+]
solvent | dimethyl formamide | 100 g | CN(C=O)C | C3H7NO
product | (+)-butyl 2-(4-formylphenoxy)propionate | 10.3 g | C(=O)C1=CC=C(OC(C(=O)OCCCC)C)C=C1 | C14H18O4
